US06087357
To a mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine (0.2 g), 1-methyl-4-formyl-1H-pyrazole (50 mg), and sodium triacetoxyborohydride (151 mg) in dichloromethane (2 ml) was added one drop of acetic acid. After being stirred at room temperature overnight, the solution was evaporated under reduced pressure. The resulting residue was partitioned between ethyl acetate and aqueous sodium hydrogen carbonate solution. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using ethyl acetate-methanol as eluent and treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[(1-methyl-1H-pyrazol-4-yl)methyl]piperazine hydrochloride (97 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine | 0.2 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C22H22F6N2O
reactant | 1-methyl-4-formyl-1H-pyrazole | 50 mg | CN1N=CC(=C1)C=O | C5H6N2O
reactant | sodium triacetoxyborohydride | 151 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[(1-methyl-1H-pyrazol-4-yl)methyl]piperazine hydrochloride | 97 mg | Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NN(C2)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C27H28F6N4O.ClH/c1-17-4-5-19(8-18(17)2)9-24-16-36(15-20-13-34-35(3)14-20)6-7-37(24)25(38)21-10-22(26(28,29)30)12-23(11-21)27(31,32)33;/h4-5,8,10-14,24H,6-7,9,15-16H2,1-3H3;1H/t24-;/m1./s1
